US08017789B2
30.0 g of 6-(bromomethyl)-2-triphenylmethyl-1,2-benzisoxazol-3(2H)-one and 13.9 mL of diethylamine were added to 90 mL of N,N-dimethylformamide. This was stirred for 50 minutes at room temperature. Ethyl acetate, methylene chloride and water were added to the reaction mixture, and an organic layer was separated. Water and hydrochloric acid were added to the organic layer, and an aqueous layer was separated. An organic layer was extracted with water and, together with the aqueous layer, 180 mL of acetone was added and 13 mL of a 20% sodium hydroxide aqueous solution was added dropwise. Solids were filtered to obtain 22.2 g of 6-(diethylamino)methyl-2-triphenylmethyl-1,2-benzisoxazol-3(2H)-one was obtained in the form of a pale yellowish-white solid.

reactant | 6-(bromomethyl)-2-triphenylmethyl-1,2-benzisoxazol-3(2H)-one | 30.0 g | BrCC1=CC2=C(C(N(O2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C27H20BrNO2
reactant | diethylamine | 13.9 mL | C(C)NCC | C4H11N
reactant | N,N-dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-(diethylamino)methyl-2-triphenylmethyl-1,2-benzisoxazol-3(2H)-one | 22.2 g | C(C)N(CC)CC1=CC2=C(C(N(O2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C31H30N2O2
